* source TEST3
V_Vin         IN 0  AC 10mV
+SIN 0 10mV 1kHz 0 0 0
C_Cb1         IN N00399  10u  TC=0,0 
C_Cc1         N00403 OUT  10u  TC=0,0 
C_Ce1         0 N00411  100u  TC=0,0 
R_Rb3         0 N00399  24k TC=0,0 
R_R2         N00399 N00505  1k TC=0,0 
R_Rc1         N00403 VCC  3k TC=0,0 
R_Rf1         N00411 N00407  22 TC=0,0 
R_RL         0 OUT  3k TC=0,0 
R_Re1         0 N00411  1k TC=0,0 
V_Vcc1         VCC 0 12V
Q_Q2         N00403 N00399 N00407 Q2N3904
X_RP1         N00505 VCC VCC POT PARAMS: SET=0.5 VALUE=100k
